US05559106
1-[(Ethoxyhydroxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
A solution of 1-[(diethoxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one (750 mg, 1.85 mmol) in 20 ml of ethanol and 20 ml of 10% sodium hydroxide was stirred at room temperature for 1 h. The solvent was removed under reduced pressure, and the residue was dissolved in water and applied to an ion-exchange column (Amberlite IR-120, H+ -form) prewashed with 4M hydrochloric acid followed by deionized water. Elution with deionized water gave an acidic eluate, which was concentrated in vacuo to give 448 mg (65%) of the title compound, m.p. 276°-280° C. (from water); 1H-NMR (DMSO-d6): δ 1.16 (t, 3H), 3.98 (quint, 2H), 4.08 (d, 2H), 7.64 (d, 1H), 7.68 (s, 1H), 8.42 (d, 1H), 12.28 (s, 1H), MS: m/e 377 (MH+).

reactant | 1-[(diethoxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 1.85 mmol, 750 mg | C(C)OP(=O)(OCC)CC1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C15H16F3N4O4P
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 1-[(Ethoxyhydroxyphosphoryl)methyl]-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 448 mg, 65% | C(C)OP(=O)(O)CC1=NN=C2N1C1=CC=C(C=C1NC2=O)C(F)(F)F | C13H12F3N4O4P
